US09145433B2
5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-N,N-dimethyl-1H-indazole-7-carboxamide was prepared analogous to the preparation of 5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-1H-indazol-7-yl)(morpholino)methanone by the reaction of dimethyl amine (0.55 mL, 1.1 mmol, 2M in THF) with 5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-1H-indazole-7-carboxylic acid (100 mg, 0.28 mmol), HBTU (140 mg, 0.36 mmol), NEt3 (57 mg, 0.08 mL, 0.57 mmol) in acetonitrile (4 mL). Extractive work-up followed by preparative HPLC purification and neutralization procedure as discussed previously provided desired 5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-N,N-dimethyl-1H-indazole-7-carboxamide as a white solid. 1H NMR (DMSO-d6): δ 13.05 (s, 1H), 8.63 (dd, 1H, J=1.7 and 4.7 Hz), 8.13 (s, 1H), 7.87 (dd, 1H, J=1.4 and 7.6 Hz), 7.81 (s, 1H), 7.46 (dd, 1H, J=4.7 and 7.6 Hz), 7.32 (d, 1H, J=7.3 Hz), 7.02-6.98 (m, 1H), 6.95-6.89 (app m. 2H), 2.93 (br s, 3H), 2.57 (br s, 3H), 2.09 (s, 3H).19F NMR (DMSO-d6): δ −118.91. LCMS: rt 4.63 min (A), purity 97%, MS (m/e) 375 (MH+).

reactant | (morpholino)methanone | O1CCN(CC1)C=O | C5H9NO2
reactant | dimethyl amine | 1.1 mmol, 2M, 0.55 mL | CNC | C2H7N
reactant | 5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-1H-indazole-7-carboxylic acid | 0.28 mmol, 100 mg | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=C2C=NNC2=C(C1)C(=O)O)C | C20H14FN3O2
reactant | HBTU | 0.36 mmol, 140 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NEt3 | 0.57 mmol, 0.08 mL, 57 mg | CCN(CC)CC | C6H15N
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-N,N-dimethyl-1H-indazole-7-carboxamide | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=C2C=NNC2=C(C1)C(=O)N(C)C)C | C22H19FN4O
